US03943149
A. 6,7-epithio-5,6,7,8-tetrahydronaphthyl benzyl ether
To 0.125 mole of potassium thiocyanate in 20 ml. of 50% ethanol is added 0.10 mole of 6,7-epoxy-5,6,7,8-tetrahydro-1-naphthyl benzyl ether and the mixture stirred vigorously for 48 hours. The product is extracted into ether, washed with salt solution, dried and freed of solvent. Ref: O.S. IV 232.

reactant | potassium thiocyanate | 0.125 mole | [S-]C#N.[K+]
reactant | 6,7-epoxy-5,6,7,8-tetrahydro-1-naphthyl benzyl ether | 0.10 mole | C(C1=CC=CC=C1)OC1=CC=CC=2CC3C(CC12)O3 | C17H16O2
solvent | ethanol | C(C)O | C2H6O
product | 6,7-epithio-5,6,7,8-tetrahydronaphthyl benzyl ether | C(C1=CC=CC=C1)OC1=CC=CC=2CC3C(CC12)S3 | C17H16OS
